US08633235B2
Step G: 2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-N-methyl-1H-benzimidazol-5-amine
Methyl {2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}carbamate (115 mg, 0.303 mmol) was dissolved in 10 mL of THF at 0° C. 1M Ha/ether (0.425 mL, 0.424 mmol) was added and the solution was stirred at 0° C. for 15 min. LiAlH4 (57 mg, 1.52 mmol) was added slowly and the solution was stirred at rt overnight. The reaction was quenched at 0° C. by the addition of MeOH (1 mL) and water (2 mL). Anhydrous Na2SO4 (5.0 g) was added and the solution was stirred at rt for 30 min. The solution was filtered and the solvent was evaporated. The residue was dissolved in EtOAc and washed with saturated aqueous NaHCO3 solution, brine and dried over anhydrous MgSO4. Yield: 95 mg (93%). 1H NMR (400 MHz, CHLOROFORM-D): δ 1.41-1.51 (m, 2H), 1.54 (s, 9H), 1.57-1.67 (m, 2H), 1.68-1.76 (m, 3H), 2.07-2.17 (m, 3H), 2.87 (s, 3H), 4.15 (d, J=7.42 Hz, 2H), 6.61 (dd, J=8.59, 2.34 Hz, 1H), 7.01 (d, J=1.95 Hz, 1H), 7.09 (d, J=8.59 Hz, 1H).

reactant | Methyl {2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}carbamate | 0.303 mmol, 115 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)NC(OC)=O | C20H27F2N3O2
reactant | ether | 0.424 mmol, 0.425 mL | CCOCC | C4H10O
reactant | LiAlH4 | 1.52 mmol, 57 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-N-methyl-1H-benzimidazol-5-amine | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)NC | C19H27F2N3
